US04340758
1,3-Dimethyl-5-tertiary-butylbenzene is prepared as described in U.S. Pat. No. 2,860,169. According to this procedure, 448 g. (8.0 moles) of isobutene were dissolved in 961 g. (9.0 moles) of meta-xylene at 0° C. and added over a period of 4.2 hours to 150 g. (7.5 moles) of liquid hydrogen fluoride contained in a copper flask equipped with a stainless-steel stirrer, addition-tube and gas-outlet. The flask was cooled in an ice-bath. Stirring was continued for 2 hours after the end of the addition period. The contents of the flask were poured on crushed ice, neutralized with excess potassium hydroxide and the organic phase separated, washed with sodium bicarbonate solution, dried and distilled. The final product contained 17% by weight of unconverted meta-xylene, 76% of 1,3-dimethyl-5-tertiary-butylbenzene and 7% of higher boiling products.

reactant | isobutene | 8.0 moles | C=C(C)C | C4H8
reactant | meta-xylene | 9.0 moles | C1(=CC(=CC=C1)C)C | C8H10
reactant | hydrogen fluoride | F | FH
reactant | potassium hydroxide | [OH-].[K+]
product | 1,3-Dimethyl-5-tertiary-butylbenzene | CC1=CC(=CC(=C1)C(C)(C)C)C | C12H18
